US05059597
b) Ethyl 5,6,7,8-tetrafluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate
A mixture of 135.4 g of ethyl 2-(2,3,4,5,6-pentafluorobenzoyl)-3-(2,4-difluorophenylamino)acrylate, 20.6 g of sodium fluoride and 300 ml of anhydrous dimethylformamide is heated at 140°-150° C. for 3 hours. The suspension is poured hot onto 2 kg of ice and the precipitate is filtered off with suction, washed with water and dried. 122 g of the title compound of melting point 160°-162° C. are obtained.

reactant | ethyl 2-(2,3,4,5,6-pentafluorobenzoyl)-3-(2,4-difluorophenylamino)acrylate | 135.4 g | FC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2)F)F)C(=C(C(=C1F)F)F)F | C18H10F7NO3
reactant | sodium fluoride | 20.6 g | [F-].[Na+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Ethyl 5,6,7,8-tetrafluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 122 g | FC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O | C18H9F6NO3
